Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Increased agitation, impulsivity, and difficulty caring for self
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Patient is a ___ yo Female with PMH of ___ Chorea and no
known psych history, presents to the ED on request of family who
are worried that she is depressed and has increased agitation. 

On examination today, patient was sitting calmly in bed and was
aware that psychiatry was consulted. When asked how she has been
doing lately she only replied "fine." Her cooperation with the
interview was limited and progressed into refusal to answer
questions. She said she has been sleeping normal ___ hours per
boyfriend) and with a normal appetite. When asked what she
normally ate she replied "bagels with peanutbutter and jelly,
___ muffins, tuna, and egg salad." She did aknowledge she 
has
lost weight(30lbs per ER phsycian) but doesn't know why because
she has been eating normally. She did look very thin on exam. 

Her family says she has not left the house in over a year. When
asked about why, she replied "I don't like the cold." When asked
why she didn't leave the house during the summer, ___ or ___
times, she did not have an answer. During her days, the only
activity she would admit to was watching tv and playing with her
dog. When trying to probe into what else she does, she only
replied "I don't know." She denied any anxiety or phobia
symptoms. She said "I don't know" when asked about how her mood
has been for the last few weeks.

It seemed as though her chorea movements got worse throughout 
the
interview as she got more irritated with me asking questions.
Towards the end of my interview, she turned her head away and
would not answer any questions. 

She is trying to go to a ___ facility in ___ for
___ but she is required to have a 3 midnight admission
in a hospital beforehand. Her apt has been auctioned off and 
will
be homeless at the end of the week. 

Collateral from Uncle:
Mentioned patient was physically assulting boyfriend at night,
worsening emotional/behavioral outburst the last few weeks. She
has not been compliant with medications or following up with
outpatient treators. She threatened to jump out her 10 story
window if the took her to one of her outpatient treators. Her
boyfriend of ___ years has decided to leave her because he is not
longer able to handle her.  Dr. ___ note has more
details from Uncle. 
 
Past Medical History:
PAST PSYCHIATRIC HISTORY:
Hospitalizations: Denies
Current treaters and treatment: none
Medication and ECT trials: Risperdal for Chorea movements
Self-injury: denies
Harm to others: denies
Access to weapons: denies
Trauma: Endorses sexually mollested in childhood, saw a
psychiatrist

PAST MEDICAL HISTORY:
___, MD but ___ seen in over a year
___ disease
 
Social History:
___
Family History:
No FHx of psychiatric disorders. Her mother was diagnosed as 
having ___ disease at the age of ___. She died at the 
age of ___. Her
brothers and sisters do not have ___ disease. The 
patient does not have any children.

 
Physical Exam:
PHYSICAL EXAM: 

- General Appearance: very thin middle aged woman sitting in
chair with intermittent, but nearly constant, subtle choreiform
movements. 

- NEUROLOGIC: 
--- Mental Status: awake, alert and oriented. Speech is 
extremely
dysarthreic with prolonged speech latency, but does improve
somewhat when discussing topics that appeal to her. Often speaks
using monosyllabic phrases. 
--- Cranial Nerves: grossly intact. Frequent frowning, grimacing
facial movements and frequent episodes of tonic upward gaze.
Motor impersistence of the tongue
--- Motor: MAEE with antigravity strength, not assessed in 
detail
--- Movement exam: frequent choreiform movements in her trunk,
shoulders and more distally in her hands and feet. Frowning and
grimacing facial movements as described above. 
--- Gait: wide-based and ataxic with enhanced choreiform hand
movements in association. However, overall her gait base seems
fairly stable since she also ambulates rather slowly. 

- PSYCHIATRIC: 

--- Behavior: constant choreiform movements, not very 
cooperative
with interview
--- Mood: "fine"
--- Affect: constricted, limited ability to assess given 
constant
dystonic/choreiform facial movements, but does seem to show some 
appropriate emotions (smiling/frowning etc). 
--- Thought process: linear, goal oriented, no LOA
--- Thought content: denies SI, HI, AVH
--- Insight/Judgment: good/poor 
 
Pertinent Results:
ADMISSION LABS: 

___ 02:45PM BLOOD WBC-6.3 RBC-3.96* Hgb-13.3 Hct-41.1 
MCV-104* MCH-33.6* MCHC-32.4 RDW-12.6 Plt ___
___ 02:45PM BLOOD Neuts-72.2* ___ Monos-4.6 Eos-1.8 
Baso-0.5
___ 02:45PM BLOOD Glucose-110* UreaN-14 Creat-0.7 Na-139 
K-3.8 Cl-105 HCO3-27 AnGap-11
___ 02:45PM BLOOD ALT-14 AST-13 AlkPhos-45 TotBili-0.2
___ 02:45PM BLOOD VitB12-426 Folate-5.4
___ 02:45PM BLOOD TSH-1.1
___ 02:45PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 11:50AM URINE Color-Straw Appear-Clear Sp ___
___ 11:50AM URINE Blood-MOD Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.5 Leuks-MOD
___ 11:50AM URINE RBC-2 WBC-3 Bacteri-FEW Yeast-NONE Epi-1
___ 11:50AM URINE bnzodzp-NEG barbitr-NEG opiates-NEG 
cocaine-NEG amphetm-NEG mthdone-NEG
 
Brief Hospital Course:
___ is a ___ year old woman with ___ Disease 
who presented to the ED for worsening aggression, irritability, 
impulsivity, refusal to take medication and difficulty caring 
for herself at home secondary to progression of her 
___. 

PSYCHIATRIC
#) ___ Disorder with secondary Mood Dysregulation

Ms. ___ was admitted to the ___ inpatient psychiatry 
unit for stabilization and re-initiation of home antipsychotics 
for her mood symptoms. In the ED she was observed to be somewhat 
agitated and uncooperative. However after restarting her 
Risperidone, her hostility resolved and she was compliant and 
cooperative throughout her stay. She was noted to have 
near-constant choreiform movements of her face, trunk and 
extremities, including grimace-like facial tics and frequent 
tonic upward eye deviation. These movements were not distressful 
to her. She endorsed a "good" or "fine" mood throughout her 
stay. We were in contact with her outpatient movement disorders 
specialist ___ MD) who recommended continuing 
antipsychotic therapy as we were doing. We ultimately settled on 
a Risperidone dose of 0.5mg BID, slightly lower than her 
original dose of 0.75mg BID with which she had been 
noncompliant. She has additional 0.25-5mg PRN BID as needed for 
agitation, but actually throughout hospitalization she was 
pleasant and cooperative and did not show any irritability, 
impulsivity or aggression. She is being discharged to an 
assisted living facility that specializes in patients with 
___ Disease, as had been previously arranged by her 
family prior to this. Will follow up on ___ with Dr. 
___. 

LEGAL STATUS
The pt remained on a CV

PSYCHOSOCIAL
The team coordinated care w/ the pt's family who were supportive 
and arranged ongoing housing/care at a ___ facility 
upon the pt's d/c.  
The pt was visited on the unit frequently by her friend ___, 
whom she found to be supportive.
Ms. ___ was visible on the unit during her stay here, and 
although she had difficulty w/ verbalizing thoughts/feelings ___ 
her ___, she was seen to be interacting well w/ others 
in the dayroom.  She never behaved in an unsafe manner and 
participated in the unit.  She also was groomed and dressed in 
casual clothing on the day of her discharge.

RISK ASSESSMENT
Ms. ___ has a low risk of imminent harm/aggression/violence.  
She has been calm and in very good behavioral control throughout 
the entirity of her psychiatric admission.  She consistently 
denied any si/hi and showed an ability to care for herself 
safely despite the intensity of an acute inpatient psychiatric 
environment.
She does, however, have a high risk of future decompensation 
given the fact that she has a progressive neurodegenerative 
condition that is associated w/ mood swings and psychosis in its 
later stages.  
We helped to mitigate that risk by resuming Ms. ___ 
antipsychotic medication and would recommend that she continue 
to take it going forward.  We also added some prn Risperdal in 
the event that she has experiences future episodes of 
aggression/instability.  We also reduced her risk of harm to 
self/others, by d/c'ing Ms. ___ to a facility where she will 
have access to professional staff and monitoring.  She also has 
f/u arrangements made with providers to continue to manage her 
___.

Prognosis:
Guarded
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. RISperidone 0.75 mg PO BID 

 
Discharge Medications:
1. RISperidone 0.5 mg PO BID 
RX *risperidone 0.5 mg 1 tablet(s) by mouth twice a day Disp 
#*60 Tablet Refills:*0
2. RISperidone 0.25-0.5 mg PO BID:PRN agitation 
RX *risperidone 0.25 mg ___ tablet(s) by mouth twice a day Disp 
#*60 Tablet Refills:*0

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
- Mood disorder secondary to General Medical Condition 
- Advanced ___ Disease  

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___, 

You were admitted to the inpatient psychiatric unit at ___ 
___ for worsening agitation and difficulty caring for 
yourself at home, due to your ___ Disease. We restarted 
your Risperidone which was very helpful and improved your 
behavior significantly. You will be discharged to an assisted 
living facility in ___ that specializes in patients with 
similar health problems. 

We made the following changes to your medications: 
- RESTARTED your Risperidone at a slightly lower dose: 0.5mg 
twice daily, plus an additional 0.25-0.5mg as needed for 
agitation. 
 
Followup Instructions:
___